US04804665
2-Dimethylamino-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride
To the 8-benzyloxycarbonyl-2-dimethylamino-2,8-diazaspiro[4,5]decane-1,3-dione (0.4 g) which was obtained in Example 18 was added 6N hydrochloric acid (20 ml), and was followed by heating at 100° C. for 3 hours. The solvent was then evaporated; the resulting residual solid was recrystallized from ethanol-ethyl acetate to obtain 0.3 g of a colorless crystal having a melting point of from 257° to 260° C.

reactant | 8-benzyloxycarbonyl-2-dimethylamino-2,8-diazaspiro[4,5]decane-1,3-dione | 0.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC(N(C2=O)N(C)C)=O)CC1 | C18H23N3O4
reactant | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | 2-Dimethylamino-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride | 0.3 g | Cl.CN(N1C(C2(CC1=O)CCNCC2)=O)C | InChI=1S/C10H17N3O2.ClH/c1-12(2)13-8(14)7-10(9(13)15)3-5-11-6-4-10;/h11H,3-7H2,1-2H3;1H
